US04167567
To a suspension of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine (2.0 g, 0.005 mol) in 15 ml of methylene chloride is added a solution of m-chlorophenyl isocyanate in 10 ml of methylene chloride at 0° C. under nitrogen. The resulting suspension is stirred for 1 hour at room temperature. The above mixture is then filtered and the white solid residue is washed with more methylene chloride and dried. This is recrystallized from methanol/methylene chloride to give 2.5 g (90%) of white crystalline 1-[[(3-chlorophenyl)amino]carbonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine of melting point 266°-268° C.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.005 mol, 2.0 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | m-chlorophenyl isocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[[(3-chlorophenyl)amino]carbonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 2.5 g, 90% | ClC=1C=C(C=CC1)NC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C28H23ClF3N5O2
